US07452895B2
N4-[3-Methyl-4-(6-methylpyridin-3-yloxy)-phenyl]-N6-(3-oxa-1,8-diazaspiro[4.5]dec-1-en-2-yl)-quinazoline-4,6-diamine is prepared from 2-{4-[3-methyl-4-(6-methylpyridin-3-yloxy)-phenylamino]-quinazolin-6-ylamino}-3-oxa-1,8-diaza-spiro[4.5]dec-1-ene-8-carboxylic acid tert-butyl ester by standard BOC deprotection methods using TFA in methylene chloride. MS ESI (+) m/z 496 (M+1) detected; 1H NMR (400 mHz, CD3OD) δ 8.43 (s, 1H), 8.39 (s, 1H), 8.12 (d, 1H), 7.70 (m, 3H), 7.61 (dd, 1H), 7.28 (m, 2H), 6.98 (d, 1H), 3.45 (m, 2H), 3.32 (m, 2H), 3.25 (m, 2H) 2.50 (s, 3H), 2.32 (m, 2H), 2.25 (s, 3H), 2.01 (m, 2H).

reactant | 2-{4-[3-methyl-4-(6-methylpyridin-3-yloxy)-phenylamino]-quinazolin-6-ylamino}-3-oxa-1,8-diaza-spiro[4.5]dec-1-ene-8-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC2(COC(=N2)NC=2C=C3C(=NC=NC3=CC2)NC2=CC(=C(C=C2)OC=2C=NC(=CC2)C)C)CC1 | C33H37N7O4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N4-[3-Methyl-4-(6-methylpyridin-3-yloxy)-phenyl]-N6-(3-oxa-1,8-diazaspiro[4.5]dec-1-en-2-yl)-quinazoline-4,6-diamine | CC=1C=C(C=CC1OC=1C=NC(=CC1)C)NC1=NC=NC2=CC=C(C=C12)NC1=NC2(CO1)CCNCC2 | C28H29N7O2
